US05808062
4-Hydroxy-3-[(2-phenylethyl)thio]-6-(4-pyridinyl)-2H-pyran-2-one:
The title compound was prepared by Method A using 4-acetylpyridine (2.50 g, 20.63 mmol), lithium bis(trimethylsilyl)amide (5.17 g, 30.94 mmol), chlorotrimethylsilane (3.92 mL, 30.94 mmol), THF (200 mL), and diethyl ester of [(2-phenylethyl)thio]-propanedioic acid (1.00 g, 3.37 mmol). m.p. dec. 149°-152° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.78 (t, 2 H), 3.04 (t, 2 H), 6.98 (s, 1 H), 7.20 (m, 5 H), 7.74 (d, 2 H), 8.74 (d, 2 H).

reactant | 4-acetylpyridine | 20.63 mmol, 2.50 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | lithium bis(trimethylsilyl)amide | 30.94 mmol, 5.17 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 30.94 mmol, 3.92 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]-propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-3-[(2-phenylethyl)thio]-6-(4-pyridinyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=NC=C1)=O)SCCC1=CC=CC=C1 | C18H15NO3S
